US04042373
Six parts of 4-chloro-2-fluorophenyl hydrazine hydrochloride was shaken with 100 parts of methylene chloride and 100 parts of 1-molar aqueous sodium hydroxide for one to two minutes until a clear two-phase solution was obtained. The organic phase was washed three times with 60 parts of water, dried with anhydrous magnesium sulfate, and evaporated under a reduced pressure of 50 to 300 mm Hg. to give 3.8 parts of pale tan 4-chloro-2-fluorophenyl hydrazine, m.p. 57°-63° C.

reactant | 4-chloro-2-fluorophenyl hydrazine hydrochloride | Cl.ClC1=CC(=C(C=C1)NN)F
reactant | sodium hydroxide | 1-molar | [OH-].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-chloro-2-fluorophenyl hydrazine | ClC1=CC(=C(C=C1)NN)F | C6H6ClFN2
